US07618985B2
A couple of drops of glacial acetic acid was added to a solution of 7-methyl-6-(piperidin-4-yloxy)isoquinolin-1-ylamine (30 mg, 0.117 mmol) in N, N-dimethylformamide (1 ml), followed by addition of benzaldehyde (50 μL). The mixture was then treated with sodium triacetoxyborohydride (100 mg) and stirred for 2 h. Water (1 ml) was added, the mixture was stirred for 30 min and then purified by prep-HPLC to give 6-(1-benzyl-piperidin-4-yloxy)-7-methylisoquinolin-1-ylamine (24 mg), El-MS: m/z=348.3 [M+H]+.

reactant | 7-methyl-6-(piperidin-4-yloxy)isoquinolin-1-ylamine | 0.117 mmol, 30 mg | CC1=C(C=C2C=CN=C(C2=C1)N)OC1CCNCC1 | C15H19N3O
reactant | benzaldehyde | 50 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 1 ml | O | H2O
catalyst | acetic acid | A couple of drops | C(C)(=O)O | C2H4O2
solvent | N, N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 6-(1-benzyl-piperidin-4-yloxy)-7-methylisoquinolin-1-ylamine | 24 mg | C(C1=CC=CC=C1)N1CCC(CC1)OC=1C=C2C=CN=C(C2=CC1C)N | C22H25N3O
